US06489476B1
A solution of 3-(2-pyridyl)-1,3-propanediol diacetate (1 mmole) in methanol-water (3:1) was treated with potassium carbonate (5 mmole) at 25° C. for 3 h. Evaporation and chromatography gave 3-(2-pyridyl)-1,3-propanediol as a solid.

reactant | 3-(2-pyridyl)-1,3-propanediol diacetate | 1 mmole | C(C)(=O)OCCC(OC(C)=O)C1=NC=CC=C1 | C12H15NO4
reactant | potassium carbonate | 5 mmole | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | CO.O
product | 3-(2-pyridyl)-1,3-propanediol | N1=C(C=CC=C1)C(CCO)O | C8H11NO2
